US04022832
2-[(2-Aminoacetamido-5-chloro-α-phenylbenzylidene)amino] propanol
To a solution of 4.5g of N,N'-dicyclohexylcarbodimide in 100ml of dimethylformamide is added a solution of 2.2g of glycine hydrochloride in 2.2ml of water in a period of about 30 seconds under stirring and ice-cooling. To the reaction mixture is immediately added dropwise a solution of 3.3g of 2-[(2-amino-5-chloro-α-phenylbenzylidene)amino]propanol in 10ml of tetrahydrofuran and the mixture is stirred for further 3 hours at room temperature. After the reaction is completed, the reaction mixture is treated by the same manner as described in the Example 1 to give 1.3g of the desired product melting at 168°-172° C.

reactant | N,N'-dicyclohexylcarbodimide | 4.5g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | glycine hydrochloride | 2.2g | Cl.NCC(=O)O
reactant | 2-[(2-amino-5-chloro-α-phenylbenzylidene)amino]propanol | 3.3g | NC1=C(C(C2=CC=CC=C2)=NC(CO)C)C=C(C=C1)Cl | C16H17ClN2O
solvent | dimethylformamide | 100ml | CN(C=O)C | C3H7NO
solvent | water | 2.2ml | O | H2O
solvent | tetrahydrofuran | 10ml | O1CCCC1 | C4H8O
product | 2-[(2-Aminoacetamido-5-chloro-α-phenylbenzylidene)amino] propanol | 1.3g | NCC(=O)NC1=C(C(C2=CC=CC=C2)=NC(CO)C)C=C(C=C1)Cl | C18H20ClN3O2
